US06087380
e) 2-[N-(4-Cyanophenyl)aminomethyl]-indol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide
3.5 g (8 mmol) of 1-tert.butoxycarbonyl-2-methyl-indol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide were dissolved in 80 ml of carbon tetrachloride, mixed with 1.5 g (8.4 mmol) of N-bromo-succinimide and 20 mg of azobisisobutyronitrile and refluxed for 2.5 hours. Then the still warm solution was filtered, the filtrate obtained was washed with saturated sodium hydrogen carbonate solution and dried with sodium sulphate. After distillation of the solvent the crude product was dissolved in 30 ml of N-ethyl-diisopropylamine, mixed with 1.0 g (8 mmol) of 4-aminobenzonitrile and refluxed for 2.5 hours. The solvent was distilled off in vacuo and the residue obtained was purified by chromatography (silica gel; ethyl acetate/petroleum ether=1:4 to 1:1). Yield: 1.1 g (30% of theory), Rf value: 0.21 (silica gel; ethyl acetate/petroleum ether=1:1)

reactant | 1-tert.butoxycarbonyl-2-methyl-indol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | 8 mmol, 3.5 g | C1(=CC=CC=C1)N(C(=O)C=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C)CCC(=O)OC | C25H28N2O5
reactant | N-bromo-succinimide | 8.4 mmol, 1.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 20 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 4-aminobenzonitrile | 8 mmol, 1.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[N-(4-Cyanophenyl)aminomethyl]-indol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C=C(NC2=CC1)CNC1=CC=C(C=C1)C#N)CCC(=O)OC | C27H24N4O3
